US07968570B2
A mixture of 2-bromomethyl-benzoic acid methyl ester (0.115 g, 0.5 mmol), 3-(4-methoxy-phenyl)-propylamine (0.110 g, 0.6 mmol), and K2CO3 (0.207 g, 1.5 mmol) in toluene (3 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 2-[3-(4-methoxy-phenyl)-propyl]-2,3-dihydro-isoindol-1-one (0.114 g, 81%). 1H NMR (300 MHz, CDCl3): δ (ppm) 1.98 (m, 2H), 2.63 (t, 2H), 3.64 (t, 2H), 3.76 (s, 3H), 4.36 (s, 2H), 6.78 (d, 2H), 7.18 (d, 2H), 7.52 (m, 3H), 7.82 (d, 1H). GC-MS: m/z 281 (M)+.

reactant | 2-bromomethyl-benzoic acid methyl ester | 0.5 mmol, 0.115 g | COC(C1=C(C=CC=C1)CBr)=O | C9H9BrO2
reactant | 3-(4-methoxy-phenyl)-propylamine | 0.6 mmol, 0.110 g | COC1=CC=C(C=C1)CCCN | C10H15NO
reactant | K2CO3 | 1.5 mmol, 0.207 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 2-[3-(4-methoxy-phenyl)-propyl]-2,3-dihydro-isoindol-1-one | 0.114 g, 81% | COC1=CC=C(C=C1)CCCN1C(C2=CC=CC=C2C1)=O | C18H19NO2
